US09120749B2
[6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl](cyclopropyl)methanone
Following general procedure F, (6-bromo-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone (50 mg, 0.116 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (49 mg, 0.173 mmol) to afford the desired product (33 mg, 56%) as a yellow-green solid: 1H NMR (500 MHz, CD3OD) δ 8.74 (s, 1H), 8.30 (d, J=1.6 Hz, 1H), 8.07-7.97 (m, 2H), 7.32 (d, J=2.1 Hz, 1H), 7.25 (d, J=2.1 Hz, 1H), 4.00 (s, 3H), 3.55 (d, J=12.2 Hz, 2H), 3.19 (dd, J=19.9, 7.2 Hz, 2H), 2.64-2.58 (m, 1H), 2.58-2.50 (m, 1H), 2.40 (s, 6H), 2.03 (d, J=12.7 Hz, 1H), 1.95-1.78 (m, 3H), 1.73-1.61 (m, 2H), 1.33-1.28 (m, 2H), 1.26-1.20 (m, 2H), 1.11 (d, J=6.6 Hz, 3H); ESI MS m/z 508 [C29H34ClN3O3+H]+; HPLC 97.0% (AUC), tR=10.04 min.

reactant | (6-bromo-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone | 0.116 mmol, 50 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)C(C)N(C)C | C22H28BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.173 mmol, 49 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | [6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl](cyclopropyl)methanone | 33 mg, 56% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)C(C)N(C)C | C29H34ClN3O3
